US05719157
One drop of conc. sulfuric acid was added to a mixture of 2-amino-4,5,3',5'-tetramethoxy-4'-hydroxybenzophenone (0.333 g), tetronic acid (tetrahydrofuran-2,4-dione) (0.11 g) and acetic acid (10 ml), and the mixture was stirred at 100° C. for 1.5 hours. The reaction mixture was concentrated under reduced pressure. The residual oil was poured into water, neutralized with an aqueous saturated sodium bicarbonate solution and extracted with chloroform. The chloroform layer was washed with water and dried over magnesium sulfate. Evaporation of the solvent gave 6,7-dimethoxy-9-(4-hydroxy-3,5-dimethoxyphenyl)furo[3,4-b]quinoline -1(3H)-one (0.349 g, 88%) which was then recrystallized from methanol. Pale yellow needles. mp. 247°-248° C.

reactant | 2-amino-4,5,3',5'-tetramethoxy-4'-hydroxybenzophenone | 0.333 g | NC1=C(C(=O)C2=CC(=C(C(=C2)OC)O)OC)C=C(C(=C1)OC)OC | C17H19NO6
reactant | tetronic acid | 0.11 g | C1C(=O)COC1=O | C4H4O3
catalyst | sulfuric acid | One drop | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 6,7-dimethoxy-9-(4-hydroxy-3,5-dimethoxyphenyl)furo[3,4-b]quinoline -1(3H)-one | 0.349 g, 88% | COC=1C(=CC=2C(=C3C(=NC2C1)COC3=O)C3=CC(=C(C(=C3)OC)O)OC)OC | C21H19NO7
